US05639780
Step 1: Methyl 2-[(5-methoxy-2-methyl-1H-indol-3-yl)methyl]benzoate
A mixture of 2-methyl-5-methoxy indole (1.01 g, 6.2 mmol), methyl 2-(bromomethyl)benzoate (1.60 g, 6.9 mmol) and silver (I) oxide (1.59 g, 6.9 mmol) in dioxane (8 mL) was heated to 50° C. for 20 h. The mixture was cooled, diluted with EtOAc and filtered thorugh celite. The filtrate was concentrated and the resulting residue was chromatographed to give 406 mg of the title compound.

reactant | 2-methyl-5-methoxy indole | 6.2 mmol, 1.01 g | CC=1NC2=CC=C(C=C2C1)OC | C10H11NO
reactant | methyl 2-(bromomethyl)benzoate | 6.9 mmol, 1.60 g | BrCC1=C(C(=O)OC)C=CC=C1 | C9H9BrO2
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | silver (I) oxide | 6.9 mmol, 1.59 g | [Ag-]=O
product | Methyl 2-[(5-methoxy-2-methyl-1H-indol-3-yl)methyl]benzoate | 406 mg | COC=1C=C2C(=C(NC2=CC1)C)CC1=C(C(=O)OC)C=CC=C1 | C19H19NO3
